US06642386B2
A solution of 300 mg (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester in 10 ml THF was cooled to 0° C. and treated with 0.14 ml triethylamine and 0.90 ml bromoacetic acid ethyl ester. The reaction mixture was stirred at r.t. overnight, then evaporated. The residue was taken up in water and extracted with EtOAc. The organic layer was dried over MgSO4. The crude product was purified by chromatography on silica with cyclohexane/EtOAc 1:2 to give 215 mg (RS)-(4-cyano-phenylamino)-[5-ethoxy-3-(1-ethoxycarbonylmethyl-piperidin-4-yloxy)-2-fluoro-phenyl]-acetic acid ethyl ester as a colorless foam. MS: 528.3 ([M+H]+).

reactant | (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester | 300 mg | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCNCC1)F)NC1=CC=C(C=C1)C#N)=O | C24H28FN3O4
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetic acid ethyl ester | 0.90 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (RS)-(4-cyano-phenylamino)-[5-ethoxy-3-(1-ethoxycarbonylmethyl-piperidin-4-yloxy)-2-fluoro-phenyl]-acetic acid ethyl ester | 215 mg | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCN(CC1)CC(=O)OCC)F)NC1=CC=C(C=C1)C#N)=O | C28H34FN3O6
